US03932429
A mixture of 0.25 g of 1-(3-hydroxyphenyl)-6,7-dimethyl-6-azabicyclo[3,2,1]octane hydrobromide, 8 ml of n-hexanoic acid anhydride and 0.1 ml of pyridine is heated at 120°C for 3 hours. After the reaction, the mixture is concentrated under reduced pressure. Ether is added to the residue, and the crystalline precipitate is collected by filtration. The precipitate is recrystallized from a mixture of chloroform and ether. 0.155 g of 1-(3-n-hexanoyloxyphenyl)6,7 -dimethyl-6-azabicyclo[3,2,1]octane hydrobromide is obtained. M.p. 95°- 97°C.

reactant | 1-(3-hydroxyphenyl)-6,7-dimethyl-6-azabicyclo[3,2,1]octane hydrobromide | 0.25 g | Br.OC=1C=C(C=CC1)C12CCCC(N(C1C)C)C2
reactant | n-hexanoic acid anhydride | 8 ml | C(CCCCC)(=O)OC(CCCCC)=O | C12H22O3
solvent | pyridine | 0.1 ml | N1=CC=CC=C1 | C5H5N
product | 1-(3-n-hexanoyloxyphenyl)6,7 -dimethyl-6-azabicyclo[3,2,1]octane hydrobromide | 0.155 g | Br.C(CCCCC)(=O)OC=1C=C(C=CC1)C12CCCC(N(C1C)C)C2 | InChI=1S/C21H31NO2.BrH/c1-4-5-6-12-20(23)24-19-11-7-9-17(14-19)21-13-8-10-18(15-21)22(3)16(21)2;/h7,9,11,14,16,18H,4-6,8,10,12-13,15H2,1-3H3;1H
